US20010047031A1
(RS)-4-(Pyrrolidine-3-sulfonyl)-phenol trifluoro-acetic acid (0.2 g, 0.59 mmol) and NaHCO3 (74 mg, 0.88 mmol) were suspended in MeOH (2 ml). After 10 minutes, reaction mixture was concentrated. The residue was taken up in CHCl3. The resulting solid was filtered and the filtrate was concentrated. The so-obtained foam was dissolved in dioxane (2 ml) and treated successively with paraformaldehyde (17.6 mg, 0.586 mmol), 3-phenyl-1-propyne (68 mg, 0.586 mmol) and CuCl (6.2 mg, 0.062 mmol). The reaction mixture was stirred at 100° C. for 0.75 hour then cooled to room temperature and concentrated. The residue was treated with saturated NaHCO3. The aqueous phase was extracted with CH2Cl2 (3 times). The combined organic phases were dried over Na2SO4, filtered and the solvent was evaporated. The residue was chromatographed over silica gel (CH2Cl2-MeOH 19:1) to provide (RS)-4-[1-(4-phenyl-but-2-ynyl)-pyrrolidine-3-sulfonyl]-phenol (0.14 g, 69%) as an orange foam, MS: m/e=356.3 (M+H+).

reactant | (RS)-4-(Pyrrolidine-3-sulfonyl)-phenol trifluoro-acetic acid | 0.59 mmol, 0.2 g | FC(C(=O)O)(F)F.N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O
reactant | NaHCO3 | 0.88 mmol, 74 mg | C(=O)(O)[O-].[Na+]
reactant | paraformaldehyde | 0.586 mmol, 17.6 mg | C=O | CH2O
reactant | 3-phenyl-1-propyne | 0.586 mmol, 68 mg | C1(=CC=CC=C1)CC#C | C9H8
solvent | MeOH | 2 ml | CO | CH4O
catalyst | CuCl | 0.062 mmol, 6.2 mg | Cl[Cu]
product | (RS)-4-[1-(4-phenyl-but-2-ynyl)-pyrrolidine-3-sulfonyl]-phenol | 0.14 g, 69% | C1(=CC=CC=C1)CC#CCN1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)O | C20H21NO3S
